US09290451B2
b) 6-Cyclopropylmethoxy-5-(2-methyl-pyrrolidin-1-yl)-pyridine-2-carboxylic acid ((S)-1-carbamoyl-3-methyl-butyl)-amide
The title compound was synthesized in analogy to Example 1, using 6-cyclopropylmethoxy-5-(2-methyl-pyrrolidin-1-yl)-pyridine-2-carboxylic acid and (2S)-2-amino-4-methyl-pentanamide (CAN 687-51-4) as starting materials, MS (LC/MS): 389.2 [M+H]+.

reactant | 6-cyclopropylmethoxy-5-(2-methyl-pyrrolidin-1-yl)-pyridine-2-carboxylic acid | C1(CC1)COC1=C(C=CC(=N1)C(=O)O)N1C(CCC1)C | C15H20N2O3
reactant | (2S)-2-amino-4-methyl-pentanamide | N[C@H](C(=O)N)CC(C)C | C6H14N2O
product | 6-Cyclopropylmethoxy-5-(2-methyl-pyrrolidin-1-yl)-pyridine-2-carboxylic acid ((S)-1-carbamoyl-3-methyl-butyl)-amide | C(N)(=O)[C@H](CC(C)C)NC(=O)C1=NC(=C(C=C1)N1C(CCC1)C)OCC1CC1 | C21H32N4O3
